US05334602
2-[2-Hydroxy-3-(tert.-butyloxycarbonylpropylamino)-propoxy]-3-phenylpropiophenone.
To a solution, cooled to 10° C., of 20 g. (58.6 mMol ) 2-(2-hydroxy-3-propylaminopropoxy)-3-phenylpropiophenone in 230 ml. dioxane are added 15.3 g. (70.1 mMol) di-tert.-butyl dicarbonate. After the dropwise addition of 117 ml. 0.5N NaOH, it is cooled to 2° C. and stirred for 50 minutes. Thereafter, it is evaporated under vacuum, the residue taken up in H2O and CH2Cl2, the phases separated and the H2O phase shaken out three times with CH2Cl2. After drying over Na2SO4 and evaporation, there are obtained 24.5 g. of pale yellow oil which crystallises in a deep cooling cabinet and is used in the next step without further purification.

reactant | 2-(2-hydroxy-3-propylaminopropoxy)-3-phenylpropiophenone | 58.6 mMol | OC(COC(C(=O)C1=CC=CC=C1)CC1=CC=CC=C1)CNCCC | C21H27NO3
reactant | di-tert.-butyl dicarbonate | 70.1 mMol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 0.5N | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[2-Hydroxy-3-(tert.-butyloxycarbonylpropylamino)-propoxy]-3-phenylpropiophenone | OC(COC(C(=O)C1=CC=CC=C1)CC1=CC=CC=C1)CNCCCC(=O)OC(C)(C)C | C26H35NO5
